US05461036
To 11-bromoundecanoic acid (1.73 g) dissolved in N,N-dimethylformamide (DMF) was added sodium azide (1.5 g), and the mixture was heated to a temperature of 80° C. and stirred for 5 hours. The reaction mixture was then diluted with cooling water and extracted with ethyl acetate to give 11-azidoundecanoic acid. To the mixed solution of 11-azidoundecanoic acid (1 g) and para-nitrophenol (612 mg) in DMF was added N,N'-dicyclohexylcarbodiimide (920 mg), and the mixture was stirred for 12 hours. The reaction mixture was filtered and concentrated to give the active ester of 11-azidoundecanoic acid. To the active ester (284 mg) dissolved in DMF were further added 6-(4'-N-glycylspicaminyl-amino)purine hydrochloride (300 mg) and triethylamine (1.1 ml), and the mixture was stirred for 12 hours. The solvent was removed by distillation, and the residue was subjected to chromatography on a silica gel column with eluent systems of chloroform-methanol (from 7:1 to 5:1) to give SPK410 in the yield of 171 mg.

reactant | 11-bromoundecanoic acid | 1.73 g | BrCCCCCCCCCCC(=O)O | C11H21BrO2
reactant | sodium azide | 1.5 g | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 11-azidoundecanoic acid | N(=[N+]=[N-])CCCCCCCCCCC(=O)O | C11H21N3O2
